2154-11-30 08:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   2L IVF for hypotension
   -
   Ongoing loose stools - Fecal tube placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-29**] 08:20 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-30**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-11-30**] 12:00 AM
   Other medications:
   Aricept, MV, Ferrous sulfate, Fludrocortisone 0.1 [**Hospital1 **], ASA 325,
   Lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Difficulty sleeping
   Constitutional: thirst
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2154-11-30**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 96 (91 - 98) bpm
   BP: 126/60(74) {73/40(48) - 126/61(74)} mmHg
   RR: 25 (18 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 8 (6 - 14)mmHg
   Total In:
                                                                  5,216 mL
                                                                    233 mL
   PO:
                                                                  1,080 mL
   TF:
   IVF:
                                                                  4,136 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  1,114 mL
                                                                    290 mL
   Urine:
                                                                  1,114 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,102 mL
                                                                    -57 mL
   Respiratory support
   O2 Delivery Device: Room air
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: CTAB)
   Abdominal: Soft, Mildly tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: None, Left lower extremity
   edema: None
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   321 K/uL
   117 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.1 mEq/L
   34 mg/dL
   113 mEq/L
   147 mEq/L
   28.1 %
   14.3 K/uL
        [image002.jpg]
                            [**2154-11-29**]  02:47 AM
                            [**2154-11-29**]  09:51 AM
                            [**2154-11-30**]  03:55 AM
   WBC
   19.5
   14.3
   Hct
   29.2
   28.1
   Plt
   315
   321
   Cr
   1.0
   0.8
   TropT
   0.07
   0.06
   Glucose
   85
   117
   Other labs: PT / PTT / INR:16.2/39.0/1.4, CK / CKMB /
   Troponin-T:48//0.06, Differential-Neuts:93.8 %, Lymph:2.9 %, Mono:2.9
   %, Eos:0.1 %, Lactic Acid:1.6 mmol/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.0 mg/dL
   Imaging: None.
   Microbiology: Blood cultures 10/29 - [**5-4**] GNR - not yet speciated.
   [**11-29**] NGTD.
   Urine cx cancelled due to fecal contamination.
   Assessment and Plan
   83 yo M with h/o urinary retention and chronic indwelling foley who
   presents with diarrhea, fever, and lower abdominal pain, found to have
   malpositioned Foley and septic shock.
   # Septic shock:  C/w UTI causing GNR sepsis.  LLL opacity on CXR likely
   asbestosis plaques vs atelectasis. No respiratory symptoms to suggest
   PNA.  Now off levophed.
   - Continue zosyn
 will need PICC line.
   - F/U cultures speciation
   # EKG changes:  EKG shows aflutter with lateral STD at a rate of 120.
   Suspect rate-related ischemia
 cardiac enzymes now negative.
   - ASA 325 mg
   - Aflutter currently rate-controlled off medications
   # Diarrhea: Unclear etiology.
   - Check stool cultures, c. diff
   - IVF prn
   # Hypernatremia: Likely hypovolemic as patient afraid to drink as
   worsens diarrhea.
   - D5
   ICU Care
   Nutrition:
   Comments: Pureed diet
   Glycemic Control:
   Lines:
   Presep Catheter - [**2154-11-28**] 07:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined.
   BP improving but urine output remains low despite the fact he is 8L pos
   LOS.  Creat has come down, however, and he is weaned off levophed.  Abd
   is mildly distended and tender
 being evaluated for causes of
   diarrhea.
   Time spent 35 min
   Critically ill

2154-11-30 08:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2154-11-29**] 10:09 AM
 BLOOD CULTURED - At [**2154-11-30**] 04:46 AM
   - 2L bolus for hypotension
   - Zosyn for GNR in blood, vanc d/c'd
   - Multiple loose bowel movements, fecal management system placed but no
   stool culture pending as of yet
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-29**] 08:20 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-30**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-11-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Diarrhea
   Genitourinary: Foley
   Neurologic: Headache
   Flowsheet Data as of  [**2154-11-30**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 96 (91 - 98) bpm
   BP: 126/60(74) {73/40(48) - 126/61(74)} mmHg
   RR: 25 (18 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (6 - 14)mmHg
   Total In:
                                                                  5,216 mL
                                                                    230 mL
   PO:
                                                                  1,080 mL
   TF:
   IVF:
                                                                  4,136 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,114 mL
                                                                    290 mL
   Urine:
                                                                  1,114 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,102 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loud S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   321 K/uL
   9.2 g/dL
   117 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.1 mEq/L
   34 mg/dL
   113 mEq/L
   147 mEq/L
   28.1 %
   14.3 K/uL
        [image002.jpg]
                            [**2154-11-29**]  02:47 AM
                            [**2154-11-29**]  09:51 AM
                            [**2154-11-30**]  03:55 AM
   WBC
   19.5
   14.3
   Hct
   29.2
   28.1
   Plt
   315
   321
   Cr
   1.0
   0.8
   TropT
   0.07
   0.06
   Glucose
   85
   117
   Other labs: PT / PTT / INR:16.2/39.0/1.4, CK / CKMB /
   Troponin-T:48//0.06, Differential-Neuts:93.8 %, Lymph:2.9 %, Mono:2.9
   %, Eos:0.1 %, Lactic Acid:1.6 mmol/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.0 mg/dL
   Microbiology: [**11-28**] - Urine Culture - Fecal Contamination
   Assessment and Plan
   83 yo M with h/o urinary retention and chronic indwelling foley who
   presents with diarrhea, fever, and lower abdominal pain, found to have
   malpositioned Foley and septic shock.
   # Septic shock:  The most likely source is UTI given malpositioned
   Foley and U/A.  CXR shows no infiltrate.  No other acute abdominal
   source on CT.  Likely also hypovolemic as has had poor PO.  Less likely
   cardiogenic though EKG showed lateral STD, likely rate-related.  CEs
   negative.
   - IVFs to maintain CVP 12ish as does have [**2-1**]+ TR
   - monitor fluid status with IVFs given AR
   - cont. abx to zosyn. tailor as appropriate
   - f/u bcxs, ucx and tailor as allowed
   - trend WBC, bandemia
   # UTI:
   - Ucx cancelled as specimen thought to be have fecal contamination,
   will tailor antibx to blood cultures.
   # ARF:  Baseline Cr is 0.7.  Slowly improving with IVFs.  FeNa 0.9%.
   Likely post-renal.  [**Month (only) 60**] also have component of pre-renal with decreased
   po intake, ATN from hypotension/sepsis.  No interesting sed.
   - IVFs
   - Foley in place
   - monitor UOP
   # EKG changes:  EKG shows aflutter with lateral STD at a rate of 120.
   Suspect rate-related ischemia.  CK, tropnonin relatively flat
   - serial CEs, EKG
   - ASA 325 mg
   # Diarrhea:
   - check stool cultures, c. diff
   # Atrial flutter:  Followed by Dr. [**Last Name (STitle) 10696**].
   - cont. ASA 325 mg
   - currently rate-controlled off medications
   # Anemia:  HCT at baseline.  Black stools likely due to iron.
   - monitor HCT
   - guaiac stools
   - cont. iron
   # Dementia:
   - cont. aricept
   # FEN: IVFs / replete lytes prn /pureed and thin liquids
   # PPX: home PPI, heparin SQ, hold bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT:  HCP daughter [**Name (NI) 1049**] [**Name (NI) 10697**] [**Telephone/Fax (1) 10698**]
   # DISPO: ICU, to floor if stable in PM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2154-11-28**] 07:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor